US08314100B2
1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine (Compound 157)
Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate and 1-(3,5-dimethylphenyl)piperazine were reacted by the same way with the example 148 to obtain the titled compound (yield, 90%). 1H NMR (300 MHz, CDCl3): δ 2.29 (s, 6H), 3.26 (s, 4H), 3.75 (s, 4H), 3.90 (s, 3H), 4.14 (s, 3H), 6.59 (s, 3H), 6.99-7.20 (m, 3H), 7.73-7.75 (m, 1H).

reactant | Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(OCC)=O | C13H15N3O4
reactant | 1-(3,5-dimethylphenyl)piperazine | CC=1C=C(C=C(C1)C)N1CCNCC1 | C12H18N2
product | 1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(3,5-dimethylphenyl)piperazine | 90% | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)C)C | C23H27N5O3
